US20010020034A1
5-[3-(3-Pyrrolidin-1-yl-propyl)-ureido]-3-(2,3,6-trifluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,3,6-trifluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 3-pyrrolidin-1-yl-propylamine by the procedure analogous to Example 1. MS (APCl, m/z): 472 [M+H]+.

reactant | [4-carbamoyl-3-(2,3,6-trifluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C(=C(C=C1F)C)F)F)C(N)=O)=O | C19H14F3N3O4S
reactant | 3-pyrrolidin-1-yl-propylamine | N1(CCCC1)CCCN | C7H16N2
product | 5-[3-(3-Pyrrolidin-1-yl-propyl)-ureido]-3-(2,3,6-trifluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide | N1(CCCC1)CCCNC(NC1=C(C(=NS1)OCC1=C(C(=C(C=C1F)C)F)F)C(=O)N)=O | C20H24F3N5O3S
